US06958341B2
Part D. A mixture of 2,4-dichloroacetophenone (10.0 g, 52.9 mmol) and dimethylformamide diethyl acetal (10.0 mL, 58.3 mmol) was heated to reflux for 12 hours, then cooled and evaporated under high vacuum. The residual oil was separated by column chromatography (silica gel, 1:1 ethyl acetate-hexane) to afford the product, 1-(2,4-dichlorobenzoyl)-2-(N,N-dimethylamino)ethene, as a viscous oil (12.11 g, 49.6 mmol, 94%). TLC RF 0.05 (20:80 ethyl acetate-hexane). Spectral data: 1H NMR (300 MHz, CDCl3): δ 7.40 (1H, d, J=2.2 Hz), 7.38-7.23 (3H, m), 5.33 (1H, d, J=12.4 Hz), 3.11 (3H, br s), 2.89 (3H, br s). MS (NH3—CI): m/e 249 (1), 248 (10), 247 (8), 246 (64), 245 (16), 244 (100).

reactant | 2,4-dichloroacetophenone | 52.9 mmol, 10.0 g | CC(=O)C1=C(C=C(C=C1)Cl)Cl | C8H6Cl2O
reactant | dimethylformamide diethyl acetal | 58.3 mmol, 10.0 mL | C(C)OC(N(C)C)OCC | C7H17NO2
product | 1-(2,4-dichlorobenzoyl)-2-(N,N-dimethylamino)ethene | ClC1=C(C(=O)C=CN(C)C)C=CC(=C1)Cl | C11H11Cl2NO
